US04393059
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer, 0.9 g.) conc. hydrochloric acid (0.9 ml.) and methanol (13.5 ml.) was stirred at room temperature for 4 hours. After concentrating the resultant solution in vacuo at 35° C., the residue was dissolved in water and washed with ethyl acetate. The aqueous solution was adjusted to pH 7.0 with sodium bicarbonate and washed with ethyl acetate and diethyl ether. After removing the organic solvent by bubbling nitrogen gas, the solution was adjusted to pH 3.0 with 10% hydrochloric acid and stirred under ice cooling. The precipitates were collected by filtration, washed with water and dried to give 7-[2-(2-aminothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer, 0.25 g.), whitish yellow powder.

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid | 0.9 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)=NOCC#C | C17H15N5O7S2
reactant | hydrochloric acid | 0.9 ml | Cl | ClH
solvent | methanol | 13.5 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-methoxy-3-cephem-4-carboxylic acid | 0.25 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)=NOCC#C | C16H15N5O6S2
